US08492401B2
A solution of ethyl 2-diazo-3-oxobutanoate (20 g, 128 mmol) in 1,2-dichloroethane (100 mL) was added over 16 h to a refluxing solution of benzamide (13 g, 107 mmol) and dirhodium tetraacetate (1.4 g, 3.2 mmol) in 1,2-dichloroethane (200 ml). The mixture was evaporated in vacuo and purified by flash chromatography to give ethyl 2-benzamido-3-oxobutanoate as a yellow oil (20 g, 50% yield).

reactant | ethyl 2-diazo-3-oxobutanoate | 128 mmol, 20 g | [N+](=[N-])=C(C(=O)OCC)C(C)=O | C6H8N2O3
reactant | benzamide | 107 mmol, 13 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
catalyst | dirhodium tetraacetate | 3.2 mmol, 1.4 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Rh+3].[Rh+3]
product | ethyl 2-benzamido-3-oxobutanoate | 20 g, 50% yield | C(C1=CC=CC=C1)(=O)NC(C(=O)OCC)C(C)=O | C13H15NO4
